US04855286
Iva-Phe-His-1(S)-cyclohexylmethyl-2(S),4-dihydroxybutylamide
310 mg of Iva-Phe-His(DNP)-cyclohexylmethyl-2(S),4-dihydroxybutylamide are reacted with thiophenol to give the title compound in analogy to reference example 1a.

reactant | Iva-Phe-His(DNP) cyclohexylmethyl-2(S),4-dihydroxybutylamide | 310 mg | N[C@@](C)(CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CN(C=N1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)C(=O)O.C1(CCCCC1)C[N-]C[C@H](CCO)O
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | Iva-Phe-His 1(S)-cyclohexylmethyl-2(S),4-dihydroxybutylamide | N[C@@](C)(CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O.C1(CCCCC1)C[C@@H]([C@H](CCO)O)[NH-] | InChI=1S/C20H27N5O4.C11H22NO2/c1-3-20(2,21)19(29)25-15(9-13-7-5-4-6-8-13)17(26)24-16(18(27)28)10-14-11-22-12-23-14;12-10(11(14)6-7-13)8-9-4-2-1-3-5-9/h4-8,11-12,15-16H,3,9-10,21H2,1-2H3,(H,22,23)(H,24,26)(H,25,29)(H,27,28);9-14H,1-8H2/q;-1/t15-,16-,20-;10-,11-/m00/s1
